US04416985
126 g of 3β-(tert.-butyldimethylsilyloxy)-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one is dissolved in a mixture of 600 ml of methylene chloride, 600 ml of carbon tetrachloride, and 300 ml of pyridine and stirred with 193.8 g of triphenylphosphine for 2.5 hours. The mixture is then washed with water, dried over sodium sulfate, and concentrated under vacuum. Chromatography on silica gel with hexane-acetone yields 117.4 g of 3β-(tert.-butyldimethylsilyloxy)-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstan-17-one, mp 155.5° C. [α]D =-87° (chloroform).

reactant | 3β-(tert.-butyldimethylsilyloxy)-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one | 126 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@]23[C@@H]([C@@H]([C@H]4[C@@H]5[C@H]6[C@@H](C([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)C6)O)O3)(C)C | C26H42O4Si
reactant | triphenylphosphine | 193.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3β-(tert.-butyldimethylsilyloxy)-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstan-17-one | 117.4 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@]23[C@@H]([C@H]([C@H]4[C@@H]5[C@H]6[C@@H](C([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)C6)Cl)O3)(C)C | C26H41ClO3Si
